### PR TITLE
feat(ClassicalMechanics): existence and uniqueness for the nonlinear simple pendulum

### PR DESCRIPTION
**Pull request by aadarwal**
**Toward #883 — the series' final piece.** #1574 is merged, so this PR is now based directly on
master (`12e16cfc`); its four commits (`172fdcc0..8c8d3a34`) are the whole diff.

The equation of motion `θ̈ + ω² sin θ = 0` is nonlinear and has no closed elementary solution, so
every later theorem about *the* motion with given initial data (the period, the return time) needs
a uniqueness gate. This PR supplies it, with time-reversal symmetry and local existence. The
argument is the damped oscillator's: reduce to the phase-space system `(θ, θ̇)' = (θ̇, −ω² sin θ)`,
globally Lipschitz because `sin` is.

**New file** `Physlib/ClassicalMechanics/Pendulum/SimplePendulum/Solution.lean`:

| Declaration | § | What it says |
|---|---|---|
| `phaseVectorField` | A.1 | the phase-space field `(θ, θ̇) ↦ (θ̇, −ω² sin θ)` |
| `phaseVectorField_lipschitz` | A.2 | globally Lipschitz with the explicit constant `1 + ω²` |
| `phaseVectorField_contDiff` (`@[fun_prop]`) | A.3 | `Cⁿ` for every `n` |
| `acceleration_eq_of_equationOfMotion`, `inertia_smul_eq_torque` | B.1 | the equation solved for `θ̈`, and its converse reading |
| `phaseCurve_hasDerivAt` | B.2 | a smooth solution's phase curve is an integral curve of the field |
| `equationOfMotion_unique`, `IsSolution.eq_of_initial` | C | two smooth solutions with the same initial angle and angular velocity coincide — **global** in time (`ODE_solution_unique_univ` on `univ`) |
| `isSolution_comp_neg` | D.1 | `t ↦ θ (−t)` is a solution (no velocity term) |
| `releasedFromRest_even` | D.2 | a solution released from rest is even in time — uniqueness applied to `θ` and `θ ∘ neg` |
| `exists_local_solution` | E.2 | for any `(x₀, v₀)`, some `ε > 0` and a curve with that initial data, twice differentiable and satisfying the equation of motion for `|t| ≤ ε` (Picard–Lindelöf via `ContDiffAt.exists_forall_mem_closedBall_exists_eq_forall_mem_Ioo_hasDerivAt₀`) |

Plus the `Physlib.lean` import and two `SimplePendulum/API-map.yaml` rows.

**Reviewer reading order.** §A against `DHO/Solution.lean` §C.2 (same shape, nonlinear field,
Lipschitz constant proved rather than existentially dodged); §B–C, the DHO uniqueness argument
one-to-one, global because the phase curves are total curves on `Time`; §D, the only new sign
bookkeeping (`−` on the first derivative, `+` on the second); **§E — the only genuinely new
argument**: the exported `ε` is *half* Mathlib's open interval, so the closed condition lies
strictly inside the `Ioo` where `HasDerivAt` holds, and the second-order unpacking goes through
`Filter.EventuallyEq.fderiv_eq` on the open preimage, so the totalized `∂ₜ θ` is differentiated
where it genuinely equals the velocity; the API-map diff last.

**Two deliberate choices:** (i) `equationOfMotion_unique`'s proof is close to DHO's — a shared
general lemma would need both fields in one type (DHO's is a `ContinuousLinearMap`), left for a
follow-up; (ii) unlike DHO, the phase-space machinery is public: the pendulum's phase plane is
itself physics (Arnold, *MMCM* §4) and the period/separatrix work builds on it.

**Verification:** full `lake build` + complete linter battery pass; `#print axioms` on every new
declaration → `propext`, `Classical.choice`, `Quot.sound` only; no `sorry`; zero-warning builds.

Developed with assistance from AI; all mathematics and proofs were reviewed and verified to compile.

### CODE REVIEW

File: Physlib/ClassicalMechanics/Pendulum/SimplePendulum/Solution.lean [hunk 1]
```diff
@@ -0,0 +1,413 @@
...
+@[expose] public section
+
+namespace ClassicalMechanics
+open Real
+open Time
+open scoped ContDiff
+
+namespace SimplePendulum
+
+variable (S : SimplePendulum)
```
Comment (morrison-daniel) [inline Physlib/ClassicalMechanics/Pendulum/SimplePendulum/Solution.lean]:
```suggestion
open Real Time
open scoped ContDiff

namespace ClassicalMechanics.SimplePendulum

variable (S : SimplePendulum)
```

File: Physlib/ClassicalMechanics/Pendulum/SimplePendulum/Solution.lean [hunk 2]
```diff
@@ -0,0 +1,413 @@
...
+  refine max_le ?_ ?_
+  · show dist p.2 q.2 ≤ _
+    nlinarith
+  · show dist (_ • _) (_ • _) ≤ _
+    rw [hsmul, neg_sub_neg, ← mul_sub, abs_mul, abs_of_nonneg hω]
+    have hsin : |Real.sin (q.1 0) - Real.sin (p.1 0)| ≤ dist p q := by
+      refine (Real.abs_sin_sub_sin_le _ _).trans ?_
+      rw [abs_sub_comm]
+      exact h3.trans h1
+    nlinarith
```
Comment (morrison-daniel) [inline Physlib/ClassicalMechanics/Pendulum/SimplePendulum/Solution.lean]:
```suggestion
  refine LipschitzWith.of_dist_le_mul fun p q => ?_
  rw [Real.coe_toNNReal _ (by positivity), Prod.dist_eq, add_mul, one_mul]
  apply max_le _ _
  · apply le_trans _ (le_add_of_nonneg_right (by positivity))
    exact le_max_right _ _
  · apply le_trans _ (le_add_of_nonneg_left (by positivity))
    apply le_trans (dist_pair_smul _ _ _)
    rw [dist_neg_neg, dist_eq_norm, norm_eq_abs, ← mul_sub, abs_mul, abs_of_nonneg (sq_nonneg _),
      mul_assoc, mul_le_mul_iff_right₀ (pow_succ_pos S.ω_pos _), dist_zero_right, PiLp.norm_single, 
      norm_one, mul_one]
    apply le_trans _ (le_max_left _ _)
    apply le_trans (Real.abs_sin_sub_sin_le _ _)
    rw [dist_eq_norm, ← Real.norm_eq_abs, ← PiLp.sub_apply]
    exact PiLp.norm_apply_le _ _
```

File: Physlib/ClassicalMechanics/Pendulum/SimplePendulum/Solution.lean [hunk 3]
```diff
@@ -0,0 +1,413 @@
...
+/-- Solving the equation of motion for the angular acceleration: along a solution the second
+  derivative of the angle is `-ω² sin θ` times the unit vector of the angular coordinate, the
+  mass having cancelled. -/
+lemma acceleration_eq_of_equationOfMotion (θ : Time → EuclideanSpace ℝ (Fin 1))
+    (h : S.EquationOfMotion θ) (t : Time) :
+    ∂ₜ (∂ₜ θ) t = -(S.ω ^ 2 * Real.sin (θ t 0)) • EuclideanSpace.single 0 1 := by
+  have hs := (S.equationOfMotion_iff_scalar θ).mp h t
+  ext i
+  fin_cases i
+  simpa using eq_neg_of_add_eq_zero_left hs
```
Comment (morrison-daniel) [inline Physlib/ClassicalMechanics/Pendulum/SimplePendulum/Solution.lean]:
```suggestion
  ext i
  fin_cases i
  simpa using eq_neg_of_add_eq_zero_left ((S.equationOfMotion_iff_scalar θ).mp h t)
```

File: Physlib/ClassicalMechanics/Pendulum/SimplePendulum/Solution.lean [hunk 4]
```diff
@@ -0,0 +1,413 @@
...
+
+/-- The pointwise equation of motion in terms of the angular frequency: the moment of inertia
+  times the acceleration `-ω² sin θ` is the torque. This reads the equation of motion back off
+  the second component of the phase-space vector field. -/
+lemma inertia_smul_eq_torque (x : EuclideanSpace ℝ (Fin 1)) :
+    S.inertia • (-(S.ω ^ 2 * Real.sin (x 0)) • EuclideanSpace.single 0 1) = S.torque x := by
+  rw [torque_eq, smul_smul, ← neg_smul]
+  congr 1
+  rw [← S.ω_sq_mul_inertia]
+  ring
```
Comment (morrison-daniel) [inline Physlib/ClassicalMechanics/Pendulum/SimplePendulum/Solution.lean]:
```suggestion
  rw [torque_eq, smul_smul, ← neg_smul, ← S.ω_sq_mul_inertia]
  congr
  ring
```

File: Physlib/ClassicalMechanics/Pendulum/SimplePendulum/Solution.lean [hunk 5]
```diff
@@ -0,0 +1,413 @@
...
+/-- The phase curve `τ ↦ (θ t, θ̇ t)` (with `t = toRealCLE.symm τ`) of a smooth solution `θ`
+  solves the first-order phase-space ODE with vector field `phaseVectorField`. -/
+lemma phaseCurve_hasDerivAt (θ : Time → EuclideanSpace ℝ (Fin 1))
+    (hθ : ContDiff ℝ ∞ θ) (h : S.EquationOfMotion θ) (τ : ℝ) :
+    HasDerivAt (fun τ : ℝ => (θ (Time.toRealCLE.symm τ), ∂ₜ θ (Time.toRealCLE.symm τ)))
+      (S.phaseVectorField (θ (Time.toRealCLE.symm τ), ∂ₜ θ (Time.toRealCLE.symm τ))) τ := by
+  simp only [phaseVectorField]
+  rw [← S.acceleration_eq_of_equationOfMotion θ h (Time.toRealCLE.symm τ)]
+  exact (Time.hasDerivAt_comp_toRealCLE_symm θ τ (hθ.differentiable (by simp) _)).prodMk
+    (Time.hasDerivAt_comp_toRealCLE_symm (∂ₜ θ) τ (deriv_differentiable_of_contDiff θ hθ _))
```
Comment (morrison-daniel) [inline Physlib/ClassicalMechanics/Pendulum/SimplePendulum/Solution.lean]:
```suggestion
lemma phaseCurve_hasDerivAt {θ : Time → EuclideanSpace ℝ (Fin 1)}
    (hθ : ContDiff ℝ ∞ θ) (h : S.EquationOfMotion θ) (τ : ℝ) :
    HasDerivAt (fun τ : ℝ => (θ (toRealCLE.symm τ), ∂ₜ θ (toRealCLE.symm τ)))
      (S.phaseVectorField (θ (toRealCLE.symm τ), ∂ₜ θ (toRealCLE.symm τ))) τ := by
  rw [phaseVectorField, ← S.acceleration_eq_of_equationOfMotion θ h (Time.toRealCLE.symm τ)]
  exact (hasDerivAt_comp_toRealCLE_symm θ τ (hθ.differentiable (by simp) _)).prodMk
    (hasDerivAt_comp_toRealCLE_symm (∂ₜ θ) τ (deriv_differentiable_of_contDiff θ hθ _))
```

File: Physlib/ClassicalMechanics/Pendulum/SimplePendulum/Solution.lean [hunk 6]
```diff
@@ -0,0 +1,413 @@
...
+    (f := fun τ : ℝ => (x (Time.toRealCLE.symm τ), ∂ₜ x (Time.toRealCLE.symm τ)))
+    (g := fun τ : ℝ => (y (Time.toRealCLE.symm τ), ∂ₜ y (Time.toRealCLE.symm τ)))
+    (fun _ => S.phaseVectorField_lipschitz.lipschitzOnWith)
+    (fun τ => ⟨S.phaseCurve_hasDerivAt x hx hEOMx τ, Set.mem_univ _⟩)
+    (fun τ => ⟨S.phaseCurve_hasDerivAt y hy hEOMy τ, Set.mem_univ _⟩)
+    hIC
+  funext t
+  have h1 := congrFun hEq (Time.toRealCLE t)
+  simp only [ContinuousLinearEquiv.symm_apply_apply] at h1
+  exact (Prod.ext_iff.mp h1).1
```
Comment (morrison-daniel) [inline Physlib/ClassicalMechanics/Pendulum/SimplePendulum/Solution.lean]:
```suggestion
lemma equationOfMotion_unique {x y : Time → EuclideanSpace ℝ (Fin 1)}
    (hx : ContDiff ℝ ∞ x) (hy : ContDiff ℝ ∞ y)
    (hEOMx : S.EquationOfMotion x) (hEOMy : S.EquationOfMotion y)
    (h0 : x 0 = y 0) (hv0 : ∂ₜ x 0 = ∂ₜ y 0) : x = y := by
  have hEq := ODE_solution_unique_univ (t₀ := (0 : ℝ))
    (f := fun τ : ℝ => (x (Time.toRealCLE.symm τ), ∂ₜ x (Time.toRealCLE.symm τ)))
    (g := fun τ : ℝ => (y (Time.toRealCLE.symm τ), ∂ₜ y (Time.toRealCLE.symm τ)))
    (fun _ => S.phaseVectorField_lipschitz.lipschitzOnWith)
    (fun τ => ⟨S.phaseCurve_hasDerivAt hx hEOMx τ, Set.mem_univ _⟩)
    (fun τ => ⟨S.phaseCurve_hasDerivAt hy hEOMy τ, Set.mem_univ _⟩)
    (by simp [h0, hv0])
  funext t
  rw [funext_iff] at hEq
  exact (Prod.ext_iff.mp (hEq (toRealCLE t))).1
```

File: Physlib/ClassicalMechanics/Pendulum/SimplePendulum/Solution.lean [hunk 7]
```diff
@@ -0,0 +1,413 @@
...
+
+/-- Two solutions of the simple pendulum with the same initial angle and angular velocity are
+  equal. -/
+lemma IsSolution.eq_of_initial {S : SimplePendulum} {x y : Time → EuclideanSpace ℝ (Fin 1)}
+    (hx : S.IsSolution x) (hy : S.IsSolution y) (h0 : x 0 = y 0) (hv0 : ∂ₜ x 0 = ∂ₜ y 0) :
+    x = y :=
+  S.equationOfMotion_unique x y hx.contDiff hy.contDiff hx.equationOfMotion hy.equationOfMotion
```
Comment (morrison-daniel) [inline Physlib/ClassicalMechanics/Pendulum/SimplePendulum/Solution.lean]:
```suggestion
  S.equationOfMotion_unique hx.contDiff hy.contDiff hx.equationOfMotion hy.equationOfMotion
```

File: Physlib/ClassicalMechanics/Pendulum/SimplePendulum/Solution.lean [hunk 8]
```diff
@@ -0,0 +1,413 @@
...
+/-- A solution of the simple pendulum released from rest at the instant `0` is an even function
+  of time: it retraces its path, `θ (-t) = θ t`. The time reversal of the solution has the same
+  initial angle and, the initial angular velocity being zero, the same initial angular velocity,
+  so the two coincide by uniqueness. -/
+lemma releasedFromRest_even {S : SimplePendulum} {θ : Time → EuclideanSpace ℝ (Fin 1)}
+    (h : S.IsSolution θ) (hv : ∂ₜ θ 0 = 0) (t : Time) : θ (-t) = θ t := by
+  have h0 : (fun s => θ (-s)) 0 = θ 0 := by simp
+  have hv0 : ∂ₜ (fun s => θ (-s)) 0 = ∂ₜ θ 0 := by
+    rw [Time.deriv_comp_neg θ 0 (h.contDiff.differentiable (by simp) _), neg_zero, hv, neg_zero]
+  exact congrFun (IsSolution.eq_of_initial (isSolution_comp_neg h) h h0 hv0) t
```
Comment (morrison-daniel) [inline Physlib/ClassicalMechanics/Pendulum/SimplePendulum/Solution.lean]:
```suggestion
  apply congrFun (IsSolution.eq_of_initial (isSolution_comp_neg h) h _ _) t
  · rw [neg_zero]
  · rw [Time.deriv_comp_neg θ 0 (h.contDiff.differentiable (by simp) _), neg_zero, hv, neg_zero]
```

**Review by morrison-daniel — APPROVED** [review]
Looks good, just some cleanup suggestions

File: Physlib/ClassicalMechanics/Pendulum/SimplePendulum/Solution.lean (hunk 2 above)
Comment (aadarwal) [reply Physlib/ClassicalMechanics/Pendulum/SimplePendulum/Solution.lean]: Applied in `8c8d3a34` — thanks!

File: Physlib/ClassicalMechanics/Pendulum/SimplePendulum/Solution.lean (hunk 3 above)
Comment (aadarwal) [reply Physlib/ClassicalMechanics/Pendulum/SimplePendulum/Solution.lean]: Applied in `8c8d3a34` — thanks!

File: Physlib/ClassicalMechanics/Pendulum/SimplePendulum/Solution.lean (hunk 4 above)
Comment (aadarwal) [reply Physlib/ClassicalMechanics/Pendulum/SimplePendulum/Solution.lean]: Applied in `8c8d3a34` — thanks!

File: Physlib/ClassicalMechanics/Pendulum/SimplePendulum/Solution.lean (hunk 5 above)
Comment (aadarwal) [reply Physlib/ClassicalMechanics/Pendulum/SimplePendulum/Solution.lean]: Applied in `8c8d3a34` — thanks!

File: Physlib/ClassicalMechanics/Pendulum/SimplePendulum/Solution.lean (hunk 6 above)
Comment (aadarwal) [reply Physlib/ClassicalMechanics/Pendulum/SimplePendulum/Solution.lean]: Applied in `8c8d3a34` — thanks!

File: Physlib/ClassicalMechanics/Pendulum/SimplePendulum/Solution.lean (hunk 7 above)
Comment (aadarwal) [reply Physlib/ClassicalMechanics/Pendulum/SimplePendulum/Solution.lean]: Applied in `8c8d3a34` — thanks!

File: Physlib/ClassicalMechanics/Pendulum/SimplePendulum/Solution.lean (hunk 8 above)
Comment (aadarwal) [reply Physlib/ClassicalMechanics/Pendulum/SimplePendulum/Solution.lean]: Applied in `8c8d3a34` — thanks!

File: Physlib/ClassicalMechanics/Pendulum/SimplePendulum/Solution.lean (hunk 1 above)
Comment (aadarwal) [reply Physlib/ClassicalMechanics/Pendulum/SimplePendulum/Solution.lean]: Applied in `8c8d3a34` — with the matching `end ClassicalMechanics.SimplePendulum` at the bottom of the file to pair with the collapsed namespace.
